US04255427
To a refluxing solution of 6-chloro-2,4-diaminopyrimidine (4.0 g) in anhydrous methanol (40 ml) was added methylhydrazine (3.2 g). After 18 hours the refluxing mixture was allowed to cool to room temperature under a nitrogen atmosphere in order that the product could crystallise out. The white solid (3.0 g) was collected by filtration and dried under reduced pressure at 70° C. Recrystallisation of the product from methanol/methylhydrazine (50/l) gave straw-coloured crystals of 2,4-diamino-6-(1-methylhydrazino)pyrimidine (1.92 g; 56% of theoretical yield; M.P. 214°-217° C. decomposition).

reactant | 6-chloro-2,4-diaminopyrimidine | 4.0 g | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
reactant | methylhydrazine | 3.2 g | CNN | CH6N2
solvent | methanol | 40 ml | CO | CH4O
product | 2,4-diamino-6-(1-methylhydrazino)pyrimidine | 1.92 g, 56% | NC1=NC(=CC(=N1)N)N(N)C | C5H10N6
